US03997536
The starting material can be obtained according to the procedure of A. R. Todd and F. Bergel, J. Chem. Soc. 1937, 365 by reaction of p-n-heptyloxybenzamidine hydrochloride with α-ethoxymethylene-α-cyanoacetic acid ethyl ester and sodium ethylate in ethanol and then with sodium hydroxide solution. The resulting 5-cyano-4-hydroxy-2-(4-n-heptyloxphenyl)-pyrimidine (melting point 180.8° C; smectic up to 231.5° C. (clearing point)) is treated with phosphorus oxychloride to give 4-chloro-5-cyano-2-(4-heptyloxyphenyl)-pyrimidine having a melting point of 133.3°-134.6° C.

reactant | p-n-heptyloxybenzamidine hydrochloride | Cl.C(CCCCCC)OC1=CC=C(C(=N)N)C=C1
reactant | α-ethoxymethylene-α-cyanoacetic acid ethyl ester | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-5-cyano-2-(4-heptyloxyphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)OCCCCCCC | C18H20ClN3O
